US08440663B2
a) 2-chloro-N-(4-(2-(4-morpholinophenylamino)pyrimidin-4-yl)phenyl)acetamide
To a flask charged with 4-(4-aminophenyl)-N-(4-morpholinophenyl)pyrimidin-2-amine (100 mg, 0.286 mmol) and THF (1 mL) was added chloroacetyl chloride (0.0230 mL, 0.286 mmol). The solution was stirred at ambient temperature for 1 hour. The crude mixture was then concentrated and used without further purification. LCMS: m/z 424 (M+H)+.

reactant | 4-(4-aminophenyl)-N-(4-morpholinophenyl)pyrimidin-2-amine | 0.286 mmol, 100 mg | NC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCOCC1 | C20H21N5O
reactant | chloroacetyl chloride | 0.286 mmol, 0.0230 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-chloro-N-(4-(2-(4-morpholinophenylamino)pyrimidin-4-yl)phenyl)acetamide | ClCC(=O)NC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCOCC1 | C22H22ClN5O2
